US08536176B2
(1) 4-Methanesulfonyl-2-methoxyphenol
A mixture of 4-bromo-2-methoxyphenol (500 mg, 2.46 mmol), sodium methanesulfinate (1 g, 9.84 mmol), copper(I) trifluoromethanesulfonate benzene complex (124 mg, 0.25 mmol) and N,N′-dimethylethylenediamine (53 μL, 0.49 mmol) in dimethyl sulfoxide (3 mL) was stirred overnight at 130° C. The mixture was allowed to cool to room temperature followed by the addition of ethyl acetate (8 mL) and water (8 mL). The resulting mixture was filtered through Celite pad and to the filtrate was added 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed sequentially with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1→1/1) to give the title compound as a white crystal (258 mg, yield 52%).

reactant | 4-bromo-2-methoxyphenol | 2.46 mmol, 500 mg | BrC1=CC(=C(C=C1)O)OC | C7H7BrO2
reactant | sodium methanesulfinate | 9.84 mmol, 1 g | CS(=O)[O-].[Na+]
reactant | N,N′-dimethylethylenediamine | 0.49 mmol, 53 μL | CNCCNC | C4H12N2
reactant | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | water | 8 mL | O | H2O
product | 4-Methanesulfonyl-2-methoxyphenol | 258 mg, yield 52% | CS(=O)(=O)C1=CC(=C(C=C1)O)OC | C8H10O4S
